US05491172
A solution of 2,4,6-triisopropylphenol (4.0 g, 18 mmol) in 50 mL tetrahydrofuran was added dropwise to a suspension of sodium hydride (1.52g, 38 mmol) in 25 mL tetrahydrofuran. The resulting pale green suspension was stirred for 30 minutes before a solution of bromoacetic acid (2.52 g, 18 mmol) in 50 mL tetrahydrofuran was added dropwise. The resulting thick suspension was stirred for 16 hours and then concentrated in vacuo. The residue was partitioned between 1N HCl and dichloromethane, the organic extract was dried over MgSO4, filtered, and concentrated to give a yellow solid. Recrystallized from hexanes to give 3.1 g of [2,4,6-tris(1-methylethyl)phenoxy]acetic acid, mp 105°-108° C.

reactant | 2,4,6-triisopropylphenol | 18 mmol, 4.0 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)O | C15H24O
reactant | sodium hydride | 38 mmol, 1.52g | [H-].[Na+]
reactant | bromoacetic acid | 18 mmol, 2.52 g | BrCC(=O)O | C2H3BrO2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | [2,4,6-tris(1-methylethyl)phenoxy]acetic acid | 3.1 g | CC(C)C1=C(OCC(=O)O)C(=CC(=C1)C(C)C)C(C)C | C17H26O3
